US08012974B2
Piperidin-3-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (0.150 g, 0.38 mmol) was dissolved in 2 mL of DCM and pyridine was added (0.120 mL/1.54 mmol). Propionyl chloride (0.05 mL, 5.4 mmol) was added dropwise to the solution and the resulting mixture was stirred overnight at RT. The reaction mixture was diluted with DCM and was quenched by addition of saturated solution of NaHCO3. The aqueous layer was extracted once with DCM and the combined organics were dried (MgSO4), filtered and, concentrated. The crude was purified by SiO2 chromatography using DCM/(DCM:MeOH:NH4OH; 60:10:1) 75% DCM) to give 0.130 g of 1-(1-propionyl-piperidin-3-yl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (76% yield).

reactant | Piperidin-3-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.38 mmol, 0.150 g | N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C18H30N6O2Si
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | Propionyl chloride | 5.4 mmol, 0.05 mL | C(CC)(=O)Cl | C3H5ClO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-propionyl-piperidin-3-yl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.130 g, 76% yield | C(CC)(=O)N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C21H34N6O3Si
